US07396844B1
8 g of benzyl-N-(2-bromoethyl)carbamate, 3.7 g of 3-hydroxybenzonitrile, 4.3 g of calcium carbonate, 5.1 g of potassium iodide and 1.1 g of tetrabutylammonium iodide were stirred in dimethylformamide at 60° C. After the treatment with ethyl acetate as the extractant in an ordinary manner, the product was purified by the silica gel column chromatography to obtain 3-[2-(benzyloxycarbonylamino)ethoxy]benzonitrile. Acetic acid containing 20% of hydrogen bromide was added to the product under cooling with ice, and the resultant mixture was stirred at room temperature for 2 hours. The solvent was evaporated, and the residue was washed with ethyl acetate to obtain the title compound.

reactant | benzyl-N-(2-bromoethyl)carbamate | 8 g | C(C1=CC=CC=C1)OC(NCCBr)=O | C10H12BrNO2
reactant | 3-hydroxybenzonitrile | 3.7 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | calcium carbonate | 4.3 g | C([O-])([O-])=O.[Ca+2]
reactant | potassium iodide | 5.1 g | [I-].[K+]
catalyst | tetrabutylammonium iodide | 1.1 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[2-(benzyloxycarbonylamino)ethoxy]benzonitrile | C(C1=CC=CC=C1)OC(=O)NCCOC=1C=C(C#N)C=CC1 | C17H16N2O3
